US04317775
To a stirred suspension of 6.7 g (0.016 mol) of amoxicillin trihydrate in 125 ml of distilled water was added in one portion 16 ml of 1 N aqueous sodium hydroxide solution. The amoxillin quickly dissolved and after two minutes 4.99 g (0.048 mol) of tetrahydrothiophene-2-ol dissolved in 10 ml of absolute ethanol was added. After stirring for two minutes at 25° C. the solution was quickly frozen and lyophilized for 19 hr to give 8.36 g of {2S-[2α, 5α, 6β(S*)]}-6-{[tetrahydro-2-thienylamino-(4-hydroxyphenyl)acetyl]amino}-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid sodium salt as a slightly yellow pungent smelling powder.

reactant | amoxicillin trihydrate | 0.016 mol, 6.7 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C3=CC=C(C=C3)O)N)C(=O)O)C.O.O.O
reactant | tetrahydrothiophene-2-ol | 0.048 mol, 4.99 g | S1C(CCC1)O | C4H8OS
reactant | sodium hydroxide | 1 N, 16 ml | [OH-].[Na+]
solvent | water | 125 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-{[tetrahydro-2-thienylamino-(4-hydroxyphenyl)acetyl]amino}-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid sodium salt | [Na+].S1C(CCC1)NC(C(=O)NC1C2SC(C(N2C1=O)C(=O)[O-])(C)C)C1=CC=C(C=C1)O | InChI=1S/C20H25N3O5S2.Na/c1-20(2)15(19(27)28)23-17(26)14(18(23)30-20)22-16(25)13(21-12-4-3-9-29-12)10-5-7-11(24)8-6-10;/h5-8,12-15,18,21,24H,3-4,9H2,1-2H3,(H,22,25)(H,27,28);/q;+1/p-1
